US05198208
(b) 2-(2-Benzyloxyethyl)-1,3-dioxolane
2-(2-Hydroxyethyl)-1,3-dioxolane (7.0 g, 58.3 mmol) was dissolved in dried tetrahydrofuran (distilled from sodium) (200 ml). Sodium hydride (2.0 g, 66.7 mmol, 80%) was added and the mixture was stirred at ambient temperature until gas evolution was completed. Tetrabutylammonium iodide (0.22 g, 0.6 mmol) and benzyl bromide (9.7 g, 56.8 mmol) were added, and the mixture was stirred for 24 hours at ambient temperature. Diethyl ether (100 ml) was added and the mixture was washed with water (3×100 ml), dried with magnesium sulphate and 2-(2-benzyloxyethyl)-1,3-dioxolane was distilled as a colourless oil. Yield 9.3 g (75%) b.p. 75°-78° C. (0.02 mm Hg). The structure was confirmed by 1H NMR and 13C NMR.

reactant | 2-(2-Hydroxyethyl)-1,3-dioxolane | 58.3 mmol, 7.0 g | OCCC1OCCO1 | C5H10O3
reactant | Sodium hydride | 66.7 mmol, 2.0 g | [H-].[Na+]
reactant | benzyl bromide | 56.8 mmol, 9.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | Tetrabutylammonium iodide | 0.6 mmol, 0.22 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(2-Benzyloxyethyl)-1,3-dioxolane | C(C1=CC=CC=C1)OCCC1OCCO1 | C12H16O3
